US06586447B1
12B. 4-(6-Bromo-7-methyl-2-oxo-2,3-dihydro-indol-1-ylmethyl)-N,N-dimethyl-benzenesulfonamide
Following the same procedure as described in example 10C, 4-(6-bromo-7-methyl-2,3-dioxo-2,3-dihydro-indol-1-ylmethyl)-N,N-dimethyl-benzenesulfonamide (0.392 g, 0.895 mmol) was treated with hydrazine to provide the crude title compound of 12B.

reactant | 4-(6-bromo-7-methyl-2,3-dioxo-2,3-dihydro-indol-1-ylmethyl)-N,N-dimethyl-benzenesulfonamide | 0.895 mmol, 0.392 g | BrC1=CC=C2C(C(N(C2=C1C)CC1=CC=C(C=C1)S(=O)(=O)N(C)C)=O)=O | C18H17BrN2O4S
reactant | hydrazine | NN | H4N2
product | 4-(6-Bromo-7-methyl-2-oxo-2,3-dihydro-indol-1-ylmethyl)-N,N-dimethyl-benzenesulfonamide | BrC1=CC=C2CC(N(C2=C1C)CC1=CC=C(C=C1)S(=O)(=O)N(C)C)=O | C18H19BrN2O3S
